### ISSUE TITLE
simp cannot take both * and -

### ISSUE THREAD

**Issue by hrmacbeth** [leanprover/lean4#1333]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

When `simp` is given both `*` and `-h` as inputs, for some hypothesis `h`, it is unable to find the hypothesis and remove it from the simp set.

### Steps to Reproduce

```lean
example 
  (h1 : a = b + 3)
  (h2 : b = c + 2)
  (h3 : c = d + 1)
  (h4 : d = e + 4)
  (useless : a = x + 1) 
  (H : a = 10) :
  e = 0 := by
  simp [*, -useless] at H
  exact H
```

**Expected behavior:**

I would expect the behaviour to be the same as the following, which works without error:
```lean
example 
  (h1 : a = b + 3)
  (h2 : b = c + 2)
  (h3 : c = d + 1)
  (h4 : d = e + 4)
  (useless : a = x + 1) 
  (H : a = 10) :
  e = 0 := by
  simp [h1, h2, h3, h4] at H
  exact H
```

**Actual behavior:**

The `useless` in the line `simp [*, -useless] at H` gives the error "unknown constant '_root_.useless'".

### Versions

Lean (version 4.0.0-nightly-2022-07-19, commit 987785242f2f, Release)

### Additional Information

I mentioned this to Leo and he asked me to open the issue.
